US07977485B2
4-(4-Bromophenyl)morpholine
A solution of 6.94 ml (134.8 mmol) of bromine in 25 ml of acetic acid is slowly added dropwise over a period of 40 min to a solution of 20 g (122.5 mmol) of N-phenylmorpholine in 170 ml of acetic acid at room temperature. After stirring at room temperature for 30 min, the reaction mixture is stirred into 750 ml of water and adjusted to pH 11 with 45% strength sodium hydroxide solution. The resulting precipitate is filtered off with suction, washed with water and dried under high vacuum. Recrystallization from ethanol results in 18.6 g (62.9% of theory) of the title compound.

reactant | bromine | 134.8 mmol, 6.94 ml | BrBr | Br2
reactant | N-phenylmorpholine | 122.5 mmol, 20 g | C1(=CC=CC=C1)N1CCOCC1 | C10H13NO
reactant | water | 750 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 170 ml | C(C)(=O)O | C2H4O2
product | 4-(4-Bromophenyl)morpholine | BrC1=CC=C(C=C1)N1CCOCC1 | C10H12BrNO
